US05972965
A mixture of 2-benzylamino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (3.15 g), ammonium formate (4.41 g) and Pd/C (0.15 g) in ethanol (EtOH) (40 ml) was refluxed for 3.5 hours. The insoluble material was filtered off and the solvent was evaporated in vacuo. The residue was partitioned between ethyl acetate and sat. NaHCO3. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 2-amino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (1.18 g). FABMS (m/z): 402 (M+ +1) NMR (CDCl3, δ): 1.10 (9H, s), 1.56-1.82 (1H, m), 2.05-2.35 (1H, m), 2.52-2.39 (5H, m), 6.24 (1H, d, J=6.4 Hz), 6.59-6.73 (2H, m), 7.32-7.42 (6H, m), 7.67-7.74 (4H, m)

reactant | 2-benzylamino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 3.15 g | C(C1=CC=CC=C1)NC1CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C33H37NOSi
reactant | ammonium formate | 4.41 g | C(=O)[O-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 2-amino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 1.18 g | NC1CC2=CC=CC(=C2CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H31NOSi
